US07268153B2
A solution of 2-oxo-2-phenylacetic acid (10 g, 66.6 mmol) (Acros Organics B.V.B.A., Belgium) in tetrahydrofuran (THF, 200 mL) was treated at room temperature with ethylmagnesium bromide (2.5 M, 80 mL, 200 mmol). The reaction mixture was stirred for 5 h, partitioned between ethyl acetate and 1N—HCl. The organic layer was separated, dried (MgSO4) and concentrated in vacuo to afford 2-hydroxy-2-phenylbutanoic acid. A solution of 2-hydroxy-2-phenylbutanoic acid (100 mg, 0.55 mmol) and diisopropylethylamine (188 uL, 1.11 mmol) in N,N-dimethylformamide (2 mL) was treated at room temperature with benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate (PyBop, 290 mg, 0.55 mmol). After 15 min, (3-fluoro-5-(trifluoromethyl)phenyl)methanamine (107 mg, 0.55 mmol) was added. The reaction mixture was stirred for 3 h, partitioned between dichloromethane and 0.5N—NaOH. The aqueous layer was removed and the organic layer was washed with 0.5N—HCl. The aqueous layer was removed by filtering through a plastic frit. The organic layer was evaporated in vacuo to give the racemic mixture of the amide which was resolved using the chiral column (CiralPak AD) to give the desired product (2-1); HRMS (M+H—H2O)=338.1167; 1H NMR (500 MHz, CDCl3) δ 7.59 (d, 1 H, J=7.5 Hz), 7.51 (m, 1 H), 7.42 (d, 1 H, J=5.0 Hz), 7.37 (t, 1 H, J=7.5 Hz), 7.32 (d, 1 H, J=7.0 Hz), 7.13 (t, 1 H, J=9.0 Hz), 7.01 (bs, 1 H), 4.52 (dq, 2 H, J=15.6, 6.4 Hz), 2.83 (s, 1 H), 2.36 (m, 1 H), 2.12 (m, 1 H), 0.94 (t, 3 H, J=7.2 Hz).

reactant | 2-oxo-2-phenylacetic acid | 66.6 mmol, 10 g | O=C(C(=O)O)C1=CC=CC=C1 | C8H6O3
reactant | ethylmagnesium bromide | 200 mmol, 2.5 M, 80 mL | C(C)[Mg]Br
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-hydroxy-2-phenylbutanoic acid | OC(C(=O)O)(CC)C1=CC=CC=C1 | C10H12O3
